US07601714B2
To a solution of N4-(4-amino-cyclohexylmethyl)-5-nitro-N2-(2-trifluoromethoxy-benzyl)-pyrimidine-2,4-diamine (80 mg, 0.182 mmol) in 2:1 DMF/DMSO (0.6 mL) was added N,N-diisopropylethylamine (32 μL, 0.272 mmol) followed by methyl-4-iodobutyrate (19 μL, 0.136 mmol). The mixture was stirred at room temperature overnight then partitioned with EtOAc (15 mL) and water (10 mL). The layers were separated and the organics dried over Na2SO4. After concentration in vacuo, the residue was purified by column chromatography using a 12 g ISCO combi-flash cartridge (silica gel, 100:0 to 90:10 DCM/MeOH) to afford 4-(4-{[5-nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexylamino)-butyric acid methyl ester (39 mg, 53%) as a white solid: m/z 541 [M+1]+.

reactant | N4-(4-amino-cyclohexylmethyl)-5-nitro-N2-(2-trifluoromethoxy-benzyl)-pyrimidine-2,4-diamine | 0.182 mmol, 80 mg | NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
reactant | N,N-diisopropylethylamine | 0.272 mmol, 32 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl-4-iodobutyrate | 0.136 mmol, 19 μL | COC(CCCI)=O | C5H9IO2
solvent | DMF DMSO | 0.6 mL | CN(C)C=O.CS(=O)C
product | 4-(4-{[5-nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexylamino)-butyric acid methyl ester | 39 mg, 53% | COC(CCCNC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F)=O | C24H31F3N6O5
